data/mechanisms/records/IMS8-EQ8.2d.json
{"mechanism_id": "IMS8-EQ8.2d", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][CH:2]([1H:8])[CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_gamma_H_ion", "mapped_smiles": "[CH3:1][CH:2][CH2:3][CH2:4][C:5](=[O+:6][1H:8])[CH3:7]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetone_enol_radical_cation", "mapped_smiles": "[CH2:4]=[C:5]([CH3:7])[O+:6][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "propene_neutral", "mapped_smiles": "[CH3:1][CH:2]=[CH2:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_distonic", "species_ids": ["distonic_gamma_H_ion"]}, {"state_id": "state_products", "species_ids": ["acetone_enol_radical_cation", "propene_neutral"]}], "steps": [{"step_id": "step_gamma_H_rearrangement", "from_state": "state_precursor", "to_state": "state_distonic", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [6, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_0_6", "from_state": "state_distonic", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "atom", "atom_maps": [6]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_d_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_gamma_H_rearrangement", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, vertical 'rH' interconversion (Eo=0.6): M+. <-> distonic ion 6.2"}, "confidence": 0.85, "curator_note": "McLafferty gamma-H rearrangement forming the drawn distonic ion 6.2 (a six-membered TS transfers the gamma-H, H8, from C2 to the carbonyl O6). The page shows this as a two-headed vertical arrow labelled 'rH', Eo=0.6, between the O-ionised molecular ion and structure 6.2. Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Three fishhooks (mirroring the archetypal rH): move<1> O6 odd electron into the forming O6-H8 bond, move<2> one C2-H8 electron into that O-H bond, move<3> the other C2-H8 electron back onto C2 (the new gamma-carbon radical). The migrating H is written [1H] so RDKit keeps it as an atom-mapped node."}, {"evidence_id": "ev_step_d_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_0_6", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 0.6, alpha (charge-retention McLafferty)"}, "confidence": 0.8, "curator_note": "Charge-retention branch of the McLafferty rearrangement: the gamma-radical of the distonic ion drives cleavage of the beta C3-C4 bond to give neutral propene (0.2) plus the acetone enol radical cation CH2=C(OH)+. (m/z 58, 40%). RESONANCE (convention C): the page DRAWS the enol ion with the charge AND odd electron on oxygen and a C4=C5 double bond (H-O+. over CH2=C<); this record encodes exactly that O-centred form, so the arrows relay the odd electron from C2 all the way onto O6. Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. FIVE fishhooks: move<1> C2 radical into the forming C2=C3 pi bond; move<2> one C3-C4 electron completes C2=C3; move<3> the other C3-C4 electron starts the forming C4=C5 pi bond; move<4> one C5=O6 pi electron completes C4=C5; move<5> the other C5=O6 pi electron becomes the odd electron on O6. Net: propene (C1-C2=C3) leaves neutral and the odd electron ends on O6, giving the drawn enol radical cation. The C-centred resonance partner (.CH2-C(=O+H)-CH3, radical on C4, needs only 3 arrows) is the alternative localisation."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "acetone_enol_radical_cation", "step_id": "step_alpha_0_6", "observed_mz": 58.0413, "relative_intensity": 0.4, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
